US05654431
3-[2-(t-Butyloxycarbonylamino)ethyl]-5-(4-bromo-1-methylpentyloxy)-1H-indol
To a solution of 3-[2-(t-butyloxycarbonylamino)ethyl]-5-hydroxy-1H-indole (1.34 g, 4.86 mmol) in acetonitrile (50 mL) were added 2,5-dibromohexane (2.4 g, 9.72 mmol) and potassium carbonate (1.3 g, 9.72 mmol) and the resulting mixture was stirred at reflux for 60 hours. After cooling to room temperature, the solution was poured into ethyl acetate (40 mL), washed with water (40 mL), dried over sodium sulfate and evaporated to dryness. Column chromatography on silica gel using hexane/ethyl acetate (4:1, 2:1 and 1:1) provided the title compound as a syrup (0.65 g, 30%).

reactant | 3-[2-(t-butyloxycarbonylamino)ethyl]-5-hydroxy-1H-indole | 4.86 mmol, 1.34 g | C(C)(C)(C)OC(=O)NCCC1=CNC2=CC=C(C=C12)O | C15H20N2O3
reactant | 2,5-dibromohexane | 9.72 mmol, 2.4 g | BrC(C)CCC(C)Br | C6H12Br2
reactant | potassium carbonate | 9.72 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 3-[2-(t-Butyloxycarbonylamino)ethyl]-5-(4-bromo-1-methylpentyloxy)-1H-indol | 0.65 g, 30% | C(C)(C)(C)OC(=O)NCCC1=CNC2=CC=C(C=C12)OC(CCC(C)Br)C | C21H31BrN2O3
